US08053440B2
A solution of 4-iodobenzaldehyde (1 g, 4.31 mmol) in MeOH (50 mL) was mixed with trimethyl orthoformate (4 mL, 36.10 mmol) and p-toluenesulfonic acid (5 mg). The reaction was stirred at room temperature for 3 h and then quenched by adding excess of sodium bicarbonate solid and stirred for 1 h. The solid was removed by filtration and the filtrate was concentrated to yield 1-dimethoxymethyl-4-iodo-benzene (1.2 g, 100%). A mixture of 1-dimethoxymethyl-4-ido-benzene (1.2 g, 4.31 mmol), cesium carbonate (1.4 g, 4.31 mmol), morpholine (0.375 g, 4.31 mmol), and palladium tetrakis(triphenyl)phosphine (0.25 g, 0.216 mmol) in toluene (60 mL) and tert-butanol (10 mL) was thoroughly degassed and stirred at 110° C. for 28 h. The reaction was quenched by adding water (50 mL), extracted with DCM (3×100 mL), concentrated to afford a solid residue. Purification by column chromatography left 4-(4-dimethoxymethyl-phenyl)-morpholine (0.61 g, 60%). A solution of 4-(4-dimethoxyrnethyl-phenyl)-morpholine (0.61 g, 2.58 mmol) in THF (20 mL) was mixed with HCl in ether (10 mL, 10 mmol) and stirred at room temperature for 2 h. The reaction mixture was then neutralized with 1 N sodium bicarbonate aqueous to pH 9 and extracted with DCM (3×100 mL), to afford 4-morpholin-4-yl-benzaldehyde (0.37 g, 75%).

reactant | 4-iodobenzaldehyde | 4.31 mmol, 1 g | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | trimethyl orthoformate | 36.10 mmol, 4 mL | C(OC)(OC)OC | C4H10O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-dimethoxymethyl-4-iodo-benzene | 1.2 g, 100% | COC(C1=CC=C(C=C1)I)OC | C9H11IO2
